US05254565
A mixture of 6-chloro-3-methylamino-4-phenylquinoline (0.54 g), 2,4-difluorophenyl isocyanate (0.48 ml) and anhydrous toluene (10 ml) was refluxed for 22 hrs. and then concentrated. The residue was purified by a column chromatography on silica gel and recrystallized from a mixture of ethyl acetate and ethanol to give 6-chloro-3-[3-(2,4-difluorophenyl)-1-methylureido]-4-phenylquinoline as colorless crystals. Yield 0.56 g (66%). m.p. 200°-201° C.

reactant | 6-chloro-3-methylamino-4-phenylquinoline | 0.54 g | ClC=1C=C2C(=C(C=NC2=CC1)NC)C1=CC=CC=C1 | C16H13ClN2
reactant | 2,4-difluorophenyl isocyanate | 0.48 ml | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-3-[3-(2,4-difluorophenyl)-1-methylureido]-4-phenylquinoline | ClC=1C=C2C(=C(C=NC2=CC1)N(C(=O)NC1=C(C=C(C=C1)F)F)C)C1=CC=CC=C1 | C23H16ClF2N3O
